US04766125
A mixture of 5 parts of 1,1'-(5-chloropentylidene)bis(4-fluorobenzene), 5 parts of 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-1-piperazineacetamide, 2.2 parts of sodium carbonate, 0.1 parts of potassium iodide and 120 parts of 4-methyl-2-pentanone was stirred and refluxed for 24 hours. The reaction mixture was cooled and purified by column-chromatography (2x) over silica gel using first a mixture of trichloromethane and methanol (95:5 by volume) and then a mixture of trichloromethane and methanol (97:3 by volume) as eluents. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in acetonitrile and 2-propanol. After stirring for one hour at room temperature, the salt was filtered off and dried, yielding 1.53 parts of 3-(aminocarbonyl)-4-[4,4-bis(4-fluorophenyl)pentyl]-N-(2,6-dichlorophenyl)-1-piperazineacetamide dihydrochloride monohydrate; mp. 206.2° C. (compound 49).

reactant | 1,1'-(5-chloropentylidene)bis(4-fluorobenzene) | ClCCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H17ClF2
reactant | 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-1-piperazineacetamide | NC(=O)C1CN(CCN1)CC(=O)NC1=C(C=CC=C1Cl)Cl | C13H16Cl2N4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 3-(aminocarbonyl)-4-[4,4-bis(4-fluorophenyl)pentyl]-N-(2,6-dichlorophenyl)-1-piperazineacetamide dihydrochloride monohydrate | O.Cl.Cl.NC(=O)C1CN(CCN1CCCC(C)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=CC=C1Cl)Cl | InChI=1S/C30H32Cl2F2N4O2.2ClH.H2O/c1-30(20-6-10-22(33)11-7-20,21-8-12-23(34)13-9-21)14-3-15-38-17-16-37(18-26(38)29(35)40)19-27(39)36-28-24(31)4-2-5-25(28)32;;;/h2,4-13,26H,3,14-19H2,1H3,(H2,35,40)(H,36,39);2*1H;1H2
